US04355037
1-Acetyl-4-(2,4-dichlorobenzoyl)piperidine oxime
A mixture of 13.0 g of 4-(2,4-dichlorobenzoyl)-N-acetyl-piperidine, 6.8 g of hydroxylamine hydrochloride, 13.5 g of ammonium acetate, 127 ml of ethanol and 43 ml of water was stirred and heated at 130° for 24 hrs. The reaction mixture was evaporated and 1.3 l of water was added to the residue. The water was decanted from the oil and the oil was dissolved in about 150 ml dichloromethane. After washing with about 150 ml of water, drying over anhydrous magnesium sulfate and evaporating the solvent, an oil was obtained, which after crystallization from methanol/ether gave 4.25 g (31.1%) of product, mp, 167°-168°.

reactant | 4-(2,4-dichlorobenzoyl)-N-acetyl-piperidine | 13.0 g | ClC1=C(C(=O)C2CCN(CC2)C(C)=O)C=CC(=C1)Cl | C14H15Cl2NO2
reactant | hydroxylamine hydrochloride | 6.8 g | Cl.NO
reactant | ammonium acetate | 13.5 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 127 ml | C(C)O | C2H6O
solvent | water | 43 ml | O | H2O
product | 1-Acetyl-4-(2,4-dichlorobenzoyl)piperidine oxime | 4.25 g, 31.1% | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)Cl)Cl)=NO | C14H16Cl2N2O2
